US06509328B1
{3-[3-(3-Chloro-thiophen-2-yl)-3-oxo-propionylamino]-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester
Prepared from (3-amino-biphenyl-4-yl)-carbamic acid tert.-butyl ester (Example G9) (100 mg, 0.35 mmol) and 6-(3-chloro-thiophen-2-yl)-2,2-dimethyl-[1,3]dioxin-4-one (Example J2) (95 mg, 0.39 mmol) according to the general procedure K. Obtained as a white solid (127 mg).

reactant | (3-amino-biphenyl-4-yl)-carbamic acid tert.-butyl ester | 0.35 mmol, 100 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=CC=C1)N)=O | C17H20N2O2
reactant | 6-(3-chloro-thiophen-2-yl)-2,2-dimethyl-[1,3]dioxin-4-one | 0.39 mmol, 95 mg | ClC1=C(SC=C1)C1=CC(OC(O1)(C)C)=O | C10H9ClO3S
product | {3-[3-(3-Chloro-thiophen-2-yl)-3-oxo-propionylamino]-biphenyl-4-yl}-carbamic Acid tert.-Butyl Ester | 127 mg | C(C)(C)(C)OC(NC1=C(C=C(C=C1)C1=CC=CC=C1)NC(CC(=O)C=1SC=CC1Cl)=O)=O | C24H23ClN2O4S
